US08685969B2
9. 1-(3-(6-Chloro-1-oxoisoindolin-2-yl)-2-methylphenyl)-7-(2-methoxyethoxy)-5H-pyridazino[4,5-b]indole-4-carboxamide
A yellow, homogeneous solution of 1-(3-(6-chloro-1-oxoisoindolin-2-yl)-2-methylphenyl)-7-(2-methoxyethoxy)-5H-pyridazino[4,5-b]indole-4-carboxylic acid (0.0206 g, 0.038 mmol), ammonium chloride (8.12 mg, 0.152 mmol), DIPEA (0.032 mL, 0.182 mmol), N-methylmorpholine (5.42 μL, 0.049 mmol) and BOP (0.065 g, 0.148 mmol) in DMF (0.379 mL) was stirred for 1 hr. It was diluted with MeOH (1 mL) and purified by reverse phase HPLC. The appropriate fractions were collected, basified with NaHCO3 (solid), and concentrated in vacuo. The residue was extracted with CH2Cl2 (3×). The combined extract was dried over Na2SO4 and concentrated in vacuo to give the desired product (0.0064 g, 0.012 mmol, 30.9% yield) as a white solid. LC/MS (M+H)=542.15; 1H NMR (500 MHz, DMSO-d6) (recognizable peaks for major atropoisomer) δ ppm 12.22 (s, 1H), 8.71 (s, 1H), 7.98 (s, 1H), 7.80-7.85 (m, 1H), 7.74-7.76 (m, 2H), 7.73 (d, J=1.1 Hz, 1H), 7.58 (s, 1H), 7.53 (d, J=1.1 Hz, 1H), 7.41 (d, J=2.2 Hz, 1H), 7.19 (d, J=8.9 Hz, 1H), 6.87 (d, J=2.2 Hz, 1H), 5.05 (d, J=17.8 Hz, 1H), 4.98 (d, J=17.5 Hz, 1H), 4.14-4.21 (m, 2H), 3.72 (dd, J1=5.4 Hz, J2=3.8 Hz, 2H), 3.32 (s, 3 H), 1.88 (s, 3 H).

reactant | 1-(3-(6-chloro-1-oxoisoindolin-2-yl)-2-methylphenyl)-7-(2-methoxyethoxy)-5H-pyridazino[4,5-b]indole-4-carboxylic acid | 0.038 mmol, 0.0206 g | ClC1=CC=C2CN(C(C2=C1)=O)C=1C(=C(C=CC1)C1=NN=C(C=2NC=3C=C(C=CC3C21)OCCOC)C(=O)O)C | C29H23ClN4O5
reactant | ammonium chloride | 0.152 mmol, 8.12 mg | [Cl-].[NH4+]
reactant | DIPEA | 0.182 mmol, 0.032 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | N-methylmorpholine | 0.049 mmol, 5.42 μL | CN1CCOCC1 | C5H11NO
reactant | BOP | 0.148 mmol, 0.065 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
solvent | DMF | 0.379 mL | CN(C)C=O | C3H7NO
solvent | MeOH | 1 mL | CO | CH4O
product | 1-(3-(6-Chloro-1-oxoisoindolin-2-yl)-2-methylphenyl)-7-(2-methoxyethoxy)-5H-pyridazino[4,5-b]indole-4-carboxamide | 0.012 mmol, 0.0064 g, 30.9% yield | ClC1=CC=C2CN(C(C2=C1)=O)C=1C(=C(C=CC1)C1=NN=C(C=2NC=3C=C(C=CC3C21)OCCOC)C(=O)N)C | C29H24ClN5O4
